US08664210B2
(E)-3-(2-Aminoethoxyimino)-4β-ethylandrostan-6,17-dione hydrochloride (I-bd)
To a stirred solution of 4β-ethylandrostan-3,6,17-trione (Preparation 11, 67 mg) in THF (1.1 ml), a solution of 2-aminoethoxyamine dihydrochloride (31 mg) and Na2HPO4.12H2O (15 mg) in H2O (0.55 ml) was added in portions over 45 minutes. After 3.5 h, the solution was evaporated, water was added and the aqueous phase was extracted with THF. The combined organic extracts were washed with brine, dried over Na2SO4 and evaporated to dryness. The crude product was triturated with Et2O and the precipitate was filtered to give the title compound I-bd (34 mg, 42%).

reactant | 4β-ethylandrostan-3,6,17-trione | 67 mg | C(C)[C@@H]1C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O)=O | C21H30O3
reactant | 2-aminoethoxyamine dihydrochloride | 31 mg | Cl.Cl.NCCON
solvent | THF | 1.1 ml | C1CCOC1 | C4H8O
solvent | H2O | 0.55 ml | O | H2O
product | (E)-3-(2-Aminoethoxyimino)-4β-ethylandrostan-6,17-dione hydrochloride | Cl.NCCO\N=C/1\[C@@H](C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O)CC | InChI=1S/C23H36N2O3.ClH/c1-4-14-18(25-28-12-11-24)8-10-23(3)17-7-9-22(2)16(5-6-20(22)27)15(17)13-19(26)21(14)23;/h14-17,21H,4-13,24H2,1-3H3;1H/b25-18+;/t14-,15-,16-,17-,21?,22-,23+;/m0./s1
